data/oMe_Silver.jsonl
{"reaction_id": "NR-129_1-c1ccc(C(F)(F)F)cc1_2-C1CCCCC1","name": "Kumada-Corriu Coupling","level": "medium","reactants_smiles": ["c1ccc(C(F)(F)F)cc1Br","C1CCCCC1[Mg]Br"],"products_smiles": ["c1ccc(C(F)(F)F)cc1C1CCCCC1"],"conditions": "[Pd]","mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Pd](c1ccc(C(F)(F)F)cc1)Br","rationale": "Pd(0) undergoes oxidative addition into the C–Br bond due to the bond’s polarization and good leaving group ability of Br⁻, forming a Pd(II) complex stabilized by coordination to c1ccc(C(F)(F)F)cc1."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[Pd](c1ccc(C(F)(F)F)cc1)C1CCCCC1","rationale": "The nucleophilic C1CCCCC1–MgBr transfers C1CCCCC1 to Pd via transmetalation, driven by the strong Mg–Br affinity and the increased electrophilicity of Pd(II) from electron-withdrawing Br."},{"step": 3,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1ccc(C(F)(F)F)cc1C1CCCCC1","rationale": "Reductive elimination from Pd(II) is favored as it forms a stable C–C bond between c1ccc(C(F)(F)F)cc1 and C1CCCCC1, regenerating Pd(0) and completing the catalytic cycle."}],"description": "In the Kumada-Corriu coupling, a Pd catalyst mediates the cross-coupling of an organohalide with a Grignard reagent. Oxidative addition activates the aryl halide, transmetalation introduces the nucleophilic partner, and reductive elimination forms the C–C bond, regenerating the catalyst."}
{"reaction_id": "NR-226_1-c2ccc(OC)cc2_2-c2ccccc2_3-c2ccc(N(C)C)cc2","level": "medium","name": "Polonovski-Potier Reaction","reactants_smiles": ["O=C(C(F)(F)F)OC(=O)C(F)(F)F","C1CCC[N+]([O-])(C(c2ccc(OC)cc2)(c2ccccc2)(c2ccc(N(C)C)cc2))C1"],"products_smiles": ["C1CCC[N+](C(c2ccc(OC)cc2)(c2ccccc2)(c2ccc(N(C)C)cc2))=C1"],"conditions": "TFAA","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCC[N+]([O]C([O-])(C(F)(F)F)OC(=O)C(F)(F)F)(C(c2ccc(OC)cc2)(c2ccccc2)(c2ccc(N(C)C)cc2))C1","step_weight": 0,"rationale": "The N-oxide oxygen acts as a nucleophile toward the highly electrophilic carbonyl of TFAA, driven by strong electron withdrawal from CF3 groups, forming an activated intermediate."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CCC[N+]([O]C(=O)C(F)(F)F)(C(c2ccc(OC)cc2)(c2ccccc2)(c2ccc(N(C)C)cc2))C1","step_weight": 0,"rationale": "The trifluoroacetate anion is an excellent leaving group due to resonance and inductive stabilization by CF3, enabling elimination to form the iminium intermediate."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1CCC[N+](C(c2ccc(OC)cc2)(c2ccccc2)(c2ccc(N(C)C)cc2))=C1","step_weight": 0,"rationale": "Base-assisted deprotonation adjacent to the iminium center is favored, as it restores conjugation and yields the thermodynamically stable alkene product."}],"description": "In the Polonovski-Potier reaction under TFAA activation, the N-oxide oxygen attacks the electrophilic anhydride, forming an activated intermediate. The trifluoroacetate group facilitates leaving group departure, generating an iminium species, which then undergoes deprotonation to yield the alkene product."}
